US04480137
A mixture of 27.2 g (0.2 mole) of tetravinyl silane and 149.5 g (0.804 mole) diphenylphosphine was reacted in a quartz pressure tube at 200° C. with u.v. light initiation until most of the diphenyl phosphine was converted. The hot, molten reaction mixture was added to 720 g of hot tuluene with stirring. The tetraadduct product precipitated from the solution as a white crystalline solid. The mixture was allowed to cool to ambient temperature and then filtered with suction. After washing with toluene and drying in vacuo, 84 g (47.7%) of crude product was obtained. This was recrystallized from 1200 ml of xylene to obtain 69 g of pure tetrakis-(diphenylphosphinoethyl) silane of mp. 198°-199° C.

reactant | tetravinyl silane | 0.2 mole, 27.2 g | C(=C)[Si](C=C)(C=C)C=C | C8H12Si
reactant | diphenylphosphine | 0.804 mole, 149.5 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
product | tetrakis-(diphenylphosphinoethyl) silane | 69 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)CC[Si](CCP(C1=CC=CC=C1)C1=CC=CC=C1)(CCP(C1=CC=CC=C1)C1=CC=CC=C1)CCP(C1=CC=CC=C1)C1=CC=CC=C1 | C56H56P4Si
